US04388322
2.25 g (0.01 mol) of 3-phenoxy-α-cyanobenzyl alcohol and 4.63 g (0.01 mol) of trans-3-(2-chloro-2-(4-chloro-phenyl)-1,2-dibromoethyl)-2,2-dimethyl-cyclo-propane-1-(R,S)-carboxylic acid chloride were dissolved in 100 ml of anhydrous toluene, and 0.8 g (0.01 mol) of pyridine, dissolved in 200 ml of toluene, was added dropwise at 25°-30° C., while stirring. The reaction mixture was then stirred for a further 3 hours at 25° C. It was poured into 150 ml of water and the organic phase was separated off and washed again with 100 ml of water. The toluene phase was then dried over sodium sulphate and the solvent was distilled off under a waterpump vacuum. Last residues of solvent were removed by brief incipient distillation at a bath temperature of 60° C./1 mm Hg. 6 g (92% of theory) of trans-3-(2-chloro-2-(4-chloro-phenyl)-1,2-dibromoethyl)-2,2-dimethylcyclopropane-1-(R,S)-carboxylic acid α-(R,S)-cyano-3-phenoxy-benzyl ester were obtained as a viscous oil. The structure was confirmed by the 1H-NMR spectrum.

reactant | 3-phenoxy-α-cyanobenzyl alcohol | 0.01 mol, 2.25 g | O(C1=CC=CC=C1)C=1C=C(C(C#N)O)C=CC1 | C14H11NO2
reactant | trans-3-(2-chloro-2-(4-chloro-phenyl)-1,2-dibromoethyl)-2,2-dimethyl-cyclo-propane-1-(R,S)-carboxylic acid chloride | 0.01 mol, 4.63 g | ClC(C(Br)[C@@H]1C([C@H]1C(=O)Cl)(C)C)(Br)C1=CC=C(C=C1)Cl | C14H13Br2Cl3O
reactant | pyridine | 0.01 mol, 0.8 g | N1=CC=CC=C1 | C5H5N
reactant | water | 150 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | trans-3-(2-chloro-2-(4-chloro-phenyl)-1,2-dibromoethyl)-2,2-dimethylcyclopropane-1-(R,S)-carboxylic acid α-(R,S)-cyano-3-phenoxy-benzyl ester | 6 g, 92% | C(#N)C(C1=CC(=CC=C1)OC1=CC=CC=C1)OC(=O)[C@@H]1C([C@H]1C(C(Br)(C1=CC=C(C=C1)Cl)Cl)Br)(C)C | C28H23Br2Cl2NO3
